US06686363B2
To a solution of 5(R)-[4-(1-(2-methyl-1,3-dioxolan-2-yl)cyclopropan-1-yl)phenyl]-5-hydroxymethyloxazolidin-2-one (2.55 g) and triethylamine (1.7 mL) in tetrahydrofuran (20 mL) was added benzenesulfonyl chloride (1.2 mL) at 0° C., the mixture was stirred at room temperature overnight, and heated at 40° C. for 10 hours. After dilution with water, the mixture was extracted with tetrahydrofuran. The organic extracts were washed with 1 N hydrochloric acid, saturated sodium hydrogencarbonate solution and brine, dried over anhydrous magnesium sulfate, filtered, and then concentrated in vacuo. Flash chromatography (silica, hexane:ethyl acetate=1:1) of the residue gave 5(R)-[4-(1-(2-methyl-1,3-dioxolan-2-yl)cyclopropan-1-yl)phenyl]-5-phenylsulfonyloxymethyloxazolidin-2-one (3.05 g).

reactant | 5(R)-[4-(1-(2-methyl-1,3-dioxolan-2-yl)cyclopropan-1-yl)phenyl]-5-hydroxymethyloxazolidin-2-one | 2.55 g | CC1(OCCO1)C1(CC1)C1=CC=C(C=C1)[C@@]1(CNC(O1)=O)CO | C17H21NO5
reactant | triethylamine | 1.7 mL | C(C)N(CC)CC | C6H15N
reactant | benzenesulfonyl chloride | 1.2 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 5(R)-[4-(1-(2-methyl-1,3-dioxolan-2-yl)cyclopropan-1-yl)phenyl]-5-phenylsulfonyloxymethyloxazolidin-2-one | 3.05 g | CC1(OCCO1)C1(CC1)C1=CC=C(C=C1)[C@@]1(CNC(O1)=O)COS(=O)(=O)C1=CC=CC=C1 | C23H25NO7S
